US06573270B1
2-[(5-{{[4-(tert-butyl)phenyl]sulfonyl}[(2-methoxyethoxy)methyl]amino}-4-iodo-1-methyl-1H-pyrazol-3-yl)oxy]ethyl acetate
To 2-{[5-({[4-(tert-butyl)phenyl]sulfonyl}amino)-4-iodo-1-methyl-1H-pyrazol-3-yl)oxy}ethyl acetate (Preparation 7) (8 g) in solution in tetrahydrofuran (200 ml) was added sodium hydride (860 mg of a 60% dispersion in oil), at room temperature. The reaction was stirred at room temperature for 0.5 hours and 2-methoxyethoxymethyl chloride (2.7 ml) was added dropwise. The reaction was stirred for an other 0.5 hours and was then diluted with a saturated aqueous solution of ammonium chloride (50 ml) and reduced under reduced pressure. Ethyl acetate (100 ml) was added and the organic layer separated. The organics were washed with brine (20 ml), dried over magnesium sulfate, filtered and concentrated under reduced pressure. The crude material was purified by chromatography on a suction column packed with silica eluted with ethyl acetate:hexane (1:1) to yield the desired product as pale yellow oil (9.5 g).

reactant | 2-{[5-({[4-(tert-butyl)phenyl]sulfonyl}amino)-4-iodo-1-methyl-1H-pyrazol-3-yl)oxy}ethyl acetate | 8 g | C(C)(=O)OCCOC1=NN(C(=C1I)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)C | C18H24IN3O5S
reactant | sodium hydride | [H-].[Na+]
reactant | 2-methoxyethoxymethyl chloride | 2.7 ml | COCCOCCl | C4H9ClO2
reactant | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | ammonium chloride | 50 ml | [Cl-].[NH4+]
product | 2-[(5-{{[4-(tert-butyl)phenyl]sulfonyl}[(2-methoxyethoxy)methyl]amino}-4-iodo-1-methyl-1H-pyrazol-3-yl)oxy]ethyl acetate | 9.5 g | C(C)(=O)OCCOC1=NN(C(=C1I)N(COCCOC)S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)C | C22H32IN3O7S
